* NexRx Digital Twin - Pentafilar Transformer (Library)
* 200 ohm to 3x ~50 ohm splitter for QSD drive - SUBCIRCUIT ONLY
*
* Core: BN-43-202 (binocular ferrite, Type 43 material)
* Windings: 5 x 2 turns #30AWG (pentafilar wound)
*   - Primary: 2 windings in series (4 turns total, 200 ohm)
*   - Secondary: 3 separate windings (2 turns each, ~50 ohm)
*
* Turns ratio: 4:2 = 2:1 per secondary
* Impedance ratio: 4:1, so 200 ohm -> 50 ohm per secondary
*
* BN-43-202 AL = 2200 nH/turn^2
* Each 2-turn winding: L = 2200 * 4 = 8.8 uH
* Primary (4 turns effective): L = 2200 * 16 = 35.2 uH
*
* Copyright 2026 NexRx Project - MIT License

*======================================================================
* PENTAFILAR TRANSFORMER SUBCIRCUIT
*
* Ports:
*   PRI_P, PRI_N  - Primary (200 ohm)
*   SEC_A, SEC_B, SEC_C - Secondary outputs (each ~50 ohm to GND)
*   GND - Ground reference for secondaries
*
* All secondaries share a common ground (center tap style)
*======================================================================

.SUBCKT XFMR_PENTAFILAR PRI_P PRI_N SEC_A SEC_B SEC_C GND

* Small winding resistance (30AWG copper, ~2 inches per winding)
* ~100 mohm per winding - in series with each inductor

* Primary: Two 2-turn windings in series
* PRI_P -> R -> L -> mid-tap -> R -> L -> PRI_N
R_PRI_A PRI_P PRI_A_L 0.1
L_PRI_A PRI_A_L PRI_MID 8.8u
R_PRI_B PRI_MID PRI_B_L 0.1
L_PRI_B PRI_B_L PRI_N 8.8u

* Three secondary windings, each 2 turns
* SEC_x -> R -> L -> GND
R_SEC_A SEC_A SEC_A_L 0.1
L_SEC_A SEC_A_L GND 8.8u
R_SEC_B SEC_B SEC_B_L 0.1
L_SEC_B SEC_B_L GND 8.8u
R_SEC_C SEC_C SEC_C_L 0.1
L_SEC_C SEC_C_L GND 8.8u

* Coupling coefficients (pentafilar wound = very tight coupling)
* All windings coupled to each other with k ~ 0.995

* Primary A to all others
K_PA_PB L_PRI_A L_PRI_B 0.995
K_PA_SA L_PRI_A L_SEC_A 0.995
K_PA_SB L_PRI_A L_SEC_B 0.995
K_PA_SC L_PRI_A L_SEC_C 0.995

* Primary B to secondaries
K_PB_SA L_PRI_B L_SEC_A 0.995
K_PB_SB L_PRI_B L_SEC_B 0.995
K_PB_SC L_PRI_B L_SEC_C 0.995

* Secondary to secondary coupling
K_SA_SB L_SEC_A L_SEC_B 0.995
K_SA_SC L_SEC_A L_SEC_C 0.995
K_SB_SC L_SEC_B L_SEC_C 0.995

.ENDS XFMR_PENTAFILAR

*======================================================================
* IDEAL PENTAFILAR (for faster simulation / debugging)
* Uses dependent sources to enforce exact 2:1 turns ratio
*======================================================================

.SUBCKT XFMR_PENTAFILAR_IDEAL PRI_P PRI_N SEC_A SEC_B SEC_C GND

* Voltage sources to enforce 2:1 ratio
* V_sec = V_pri / 2
E_SEC_A SEC_A GND PRI_P PRI_N 0.5
E_SEC_B SEC_B GND PRI_P PRI_N 0.5
E_SEC_C SEC_C GND PRI_P PRI_N 0.5

* Current sensing for power balance
* I_pri = (I_sec_a + I_sec_b + I_sec_c) / 2
VSENSE_A SEC_A SEC_A_INT 0
VSENSE_B SEC_B SEC_B_INT 0
VSENSE_C SEC_C SEC_C_INT 0

R_LOAD_A SEC_A_INT GND 1e-6
R_LOAD_B SEC_B_INT GND 1e-6
R_LOAD_C SEC_C_INT GND 1e-6

* Reflect current to primary
F_PRI PRI_P PRI_N VSENSE_A 0.5
F_PRI_B PRI_P PRI_N VSENSE_B 0.5
F_PRI_C PRI_P PRI_N VSENSE_C 0.5

.ENDS XFMR_PENTAFILAR_IDEAL
