* NexRx Digital Twin - 200 Ohm Preselector (Library)
* Switched LC tank for band selection - SUBCIRCUIT ONLY
*
* Nominal impedance: 200 ohms
* Frequency range: 1-30 MHz
*
* Inductors:
*   L701 = 1.5uH (can be shorted by SW_L701)
*   L702 = 220nH (always in series with L701 or alone)
*   Total: 1.72uH (L701+L702) or 220nH (L702 only)
*
* Capacitors (each switchable, active high):
*   C701=8pF, C702=15pF, C703=33pF, C704=68pF, C705=120pF
*   C706=250pF, C707=560pF, C708=1000pF, C709=2200pF
*   C710=3900pF, C711=8200pF
*   Total range: 0 to ~16.3nF
*
* Copyright 2026 NexRx Project - MIT License

*======================================================================
* AS183-92LF SPDT SWITCH MODEL
* Ron ~= 0.35 ohm, Roff ~= 10M ohm (better than TS3A4751)
* Control voltage: 0V = off, 3.3V = on
*======================================================================

.SUBCKT SW_AS183 IN OUT CTRL GND
R_SW IN OUT R='0.35 + 1e7 * (1 - tanh(10*(V(CTRL,GND) - 1.65)))/2'
.ENDS SW_AS183

*======================================================================
* PRESELECTOR SUBCIRCUIT (200 OHM)
*
* Ports: IN, OUT, GND
* Control: L701_SHORT (1=short L701, leaving only L702)
*          C701_EN..C711_EN (capacitor enables, active high)
*======================================================================

.SUBCKT PRESELECTOR_200 IN OUT GND
+ L701_SHORT
+ C701_EN C702_EN C703_EN C704_EN C705_EN
+ C706_EN C707_EN C708_EN C709_EN C710_EN C711_EN

*----------------------------------------------------------------------
* SHUNT PARALLEL LC TANK TOPOLOGY
*
* Signal path: IN ---+--- OUT
*                    |
*                 +--+--+
*                 |     |
*                L_eq  C_eq
*                 |     |
*                 +--+--+
*                    |
*                   GND
*
* At resonance f = 1/(2π√LC), parallel tank has max impedance → signal passes
* Off resonance, tank impedance drops → signal attenuated to ground
*----------------------------------------------------------------------

* Signal path - direct connection
R_PATH IN OUT 0.1

*----------------------------------------------------------------------
* Inductor branch: L701 in series with L702, L701 can be shorted
* L701_SHORT = 3.3V → L701 bypassed (use for HIGH freq, L702 only = 220nH)
* L701_SHORT = 0V → L701 in circuit (use for LOW freq, total = 1.72uH)
*----------------------------------------------------------------------

* L701 with parallel bypass switch
L_L701 OUT L701_L702 1.5u
X_SW_L701 OUT L701_L702 L701_SHORT GND SW_AS183

* L702 always in circuit, connects to ground
L_L702 L701_L702 GND 220n

*----------------------------------------------------------------------
* Capacitor branch (parallel to inductor branch)
* Switched cap bank - each cap has series switch from OUT to GND
* EN = 3.3V → cap in circuit, EN = 0V → cap disconnected
*----------------------------------------------------------------------

X_SW_C701 OUT C701_SW C701_EN GND SW_AS183
C_C701 C701_SW GND 8p

X_SW_C702 OUT C702_SW C702_EN GND SW_AS183
C_C702 C702_SW GND 15p

X_SW_C703 OUT C703_SW C703_EN GND SW_AS183
C_C703 C703_SW GND 33p

X_SW_C704 OUT C704_SW C704_EN GND SW_AS183
C_C704 C704_SW GND 68p

X_SW_C705 OUT C705_SW C705_EN GND SW_AS183
C_C705 C705_SW GND 120p

X_SW_C706 OUT C706_SW C706_EN GND SW_AS183
C_C706 C706_SW GND 250p

X_SW_C707 OUT C707_SW C707_EN GND SW_AS183
C_C707 C707_SW GND 560p

X_SW_C708 OUT C708_SW C708_EN GND SW_AS183
C_C708 C708_SW GND 1000p

X_SW_C709 OUT C709_SW C709_EN GND SW_AS183
C_C709 C709_SW GND 2200p

X_SW_C710 OUT C710_SW C710_EN GND SW_AS183
C_C710 C710_SW GND 3900p

X_SW_C711 OUT C711_SW C711_EN GND SW_AS183
C_C711 C711_SW GND 8200p

.ENDS PRESELECTOR_200
